US04719210
A solution of 0.23 g of sodium in 10 ml of methanol is added drop by drop with stirring to a suspension of 0.5 g of 5-benzyloxy-4-methoxymethyl-9-tosyl-3-vinyl-beta-carboline in 20 ml of methanol. After 72 hours of stirring at room temperature, it is evaporated to dryness and the residue is chromatographed over silica gel with dichloromethane/ethanol=10/1 as eluant. 0.135 g of 5-benzyloxy-4-methoxymethyl-3-vinyl-beta-carboline with a melting point of 183°-185° C. is obtained.

reactant | sodium | 0.23 g | [Na] | Na
reactant | 5-benzyloxy-4-methoxymethyl-9-tosyl-3-vinyl-beta-carboline | 0.5 g | C(C1=CC=CC=C1)OC1=C2C=3C(=C(N=CC3N(C2=CC=C1)S(=O)(=O)C1=CC=C(C)C=C1)C=C)COC | C29H26N2O4S
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 5-benzyloxy-4-methoxymethyl-3-vinyl-beta-carboline | 0.135 g | C(C1=CC=CC=C1)OC1=C2C=3C(=C(N=CC3NC2=CC=C1)C=C)COC | C22H20N2O2
